US04824843
A solution of 2-methyl-3-nitrobenzoyl chloride, 0.2 mol, (U.S. Pat. No. 4,065,477) in dichloromethane is added to 0.4 mol of 2-amino-2-methyl-1-propanol (Aldrich Chemical Company) with ice cooling. The mixture is allowed to stand overnight, water added and the solid filtered to give 20.8 g. The organic layer is washed with water, separated and evaporated to give 28.1 g. The two crops of material are combined and dissolved in 2-propanol. The 2-propanol solution is concentrated to give 40.2 g of N-(2-hydroxy-1,1-dimethylethyl)-2-methyl-3-nitrobenzamide; mp 144°-145° C.

reactant | 2-methyl-3-nitrobenzoyl chloride | CC1=C(C(=O)Cl)C=CC=C1[N+](=O)[O-] | C8H6ClNO3
reactant | 2-amino-2-methyl-1-propanol | 0.4 mol | NC(CO)(C)C | C4H11NO
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | 2-propanol | CC(C)O | C3H8O
product | N-(2-hydroxy-1,1-dimethylethyl)-2-methyl-3-nitrobenzamide | 40.2 g | OCC(C)(C)NC(C1=C(C(=CC=C1)[N+](=O)[O-])C)=O | C12H16N2O4
